US04125732
Methyl(α,α,α-trifluoro-p-tolyloxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate
As described in Example 44, 8.14 g of methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate is reacted with p-trifluoromethylphenol to give 7.7 g of off-white crystals. Recrystallization from methanol gives the product as white crystals, mp 83°-84° C.

reactant | methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 8.14 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl | C18H18BrClO4
reactant | p-trifluoromethylphenol | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
product | Methyl(α,α,α-trifluoro-p-tolyloxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 7.7 g | COC(C(C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)C(F)(F)F)=O | C25H22ClF3O5
